US05399686
Loracarbef Monohydrate
A sample of loracarbef isopropanolate is charged to the 300 mm. Allihn condenser. Deionized water (200 g) is charged to a 1 L., 1-neck, round bottom flask. The flask is placed in the Kugelrohr oven and connected to the condenser. The system's pressure is pulled down to approximately 300 mbar. The jacket on the condenser is heated to 75° C. with a constant temperature bath. The Kugelrohr oven is heated to 65° C. The system's pressure is further reduced to 250 mbar and the isopropanolate is subjected to a relative humidity of 100% with agitation for approximately 6 to 8 hours. The oven and condenser are cooled to 20°-25° C. The system is vented to atmospheric pressure. The hydrated product is removed and placed in a vacuum oven at 40°-45° C. The product is dried overnight under full vacuum with a slight nitrogen sweep.

reactant | loracarbef isopropanolate | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@H]3CCC(=C(N3C2=O)C(=O)O)Cl)N.C(C)(C)[O-]
reactant | isopropanolate | C(C)(C)[O-]
solvent | water | 200 g | O | H2O
product | Loracarbef Monohydrate | C1CC(=C(N2C1C(C2=O)NC(=O)[C@@H](C3=CC=CC=C3)N)C(=O)O)Cl.O | InChI=1S/C16H16ClN3O4.H2O/c17-9-6-7-10-12(15(22)20(10)13(9)16(23)24)19-14(21)11(18)8-4-2-1-3-5-8;/h1-5,10-12H,6-7,18H2,(H,19,21)(H,23,24);1H2/t10?,11-,12?;/m1./s1
